US05571810
A mixture of 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene (1 g) and sodium borohydride (0.12 g) in methanol (19 ml) was stirred at ambient temperature for 2 hours. Acetic acid (1 ml) was added and the mixture was concentrated. The residue was dissolved in ethyl acetate, washed with water and an aqueous solution of sodium bicarbonate, dried and concentrated. The residue was recrystallized from a mixture of hexane and ethyl acetate to give crystals of 2-(4-fluorophenyl)-5-(1-hydroxyethyl)-3-[4-(methylsulfonyl)phenyl]thiophene (0.74 g).

reactant | 5-acetyl-2-(4-fluorophenyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 1 g | C(C)(=O)C1=CC(=C(S1)C1=CC=C(C=C1)F)C1=CC=C(C=C1)S(=O)(=O)C | C19H15FO3S2
reactant | sodium borohydride | 0.12 g | [BH4-].[Na+]
reactant | Acetic acid | 1 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 19 ml | CO | CH4O
product | 2-(4-fluorophenyl)-5-(1-hydroxyethyl)-3-[4-(methylsulfonyl)phenyl]thiophene | 0.74 g | FC1=CC=C(C=C1)C=1SC(=CC1C1=CC=C(C=C1)S(=O)(=O)C)C(C)O | C19H17FO3S2
